US06777567B2
Reaction of (1R,2S)-O-methylephedrine with N-ferrocenylmethyl-N,N,N-trimethylammonium iodide (D. Lednicer and C. R. Hauser, J. Org. Chem., 40 (1960), 31) in acetonitrile gives the intermediate (−)-(1R,2S)-N-(ferrocenylmethyl)-N-methyl-1-methoxy-1-phenyl-prop-2-ylamine.

reactant | (1R,2S)-O-methylephedrine | C[C@@H]([C@@H](C1=CC=CC=C1)OC)NC | C11H17NO
reactant | N-ferrocenylmethyl-N,N,N-trimethylammonium iodide | [I-].[C-]1(C=CC=C1)C[N+](C)(C)C.[CH-]1C=CC=C1.[Fe+2]
solvent | acetonitrile | C(C)#N | C2H3N
product | (−)-(1R,2S)-N-(ferrocenylmethyl)-N-methyl-1-methoxy-1-phenyl-prop-2-ylamine | [C-]1(C=CC=C1)CN(C)[C@H]([C@@H](C1=CC=CC=C1)OC)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H22NO.C5H5.Fe/c1-14(18(2)13-15-9-7-8-10-15)17(19-3)16-11-5-4-6-12-16;1-2-4-5-3-1;/h4-12,14,17H,13H2,1-3H3;1-5H;/q2*-1;+2/t14-,17-;;/m0../s1
